US07122550B2
2-Methoxy-4-{6-[(1R)-1,2,3,4-tetrahydronaphthalen-1-ylamino]pyrazin-2-yl}phenol
In a procedure analogous to Example 2, reaction of 6-chloro-N-[(1R)-1,2,3,4-tetrahydronaphthalen-1-yl]pyrazin-2-amine (139 mg, 0.536 mmol) and 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (147 mg, 0.59 mmol) furnished the product (87 mg, 47%).

reactant | 6-chloro-N-[(1R)-1,2,3,4-tetrahydronaphthalen-1-yl]pyrazin-2-amine | 0.536 mmol, 139 mg | ClC1=CN=CC(=N1)N[C@@H]1CCCC2=CC=CC=C12 | C14H14ClN3
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.59 mmol, 147 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
product | 2-Methoxy-4-{6-[(1R)-1,2,3,4-tetrahydronaphthalen-1-ylamino]pyrazin-2-yl}phenol | 87 mg, 47% | COC1=C(C=CC(=C1)C1=NC(=CN=C1)N[C@@H]1CCCC2=CC=CC=C12)O | C21H21N3O2
